US06770648B2
2-(2-Chloro-4-nitro-phenylsulfanyl)-napthalene was synthesized (100%) from 3-chloro-4-fluoro-nitrobenzene (Aldrich) and napthalene-2-thiol (Avocado) in a similar manner as described in example 89.

reactant | 3-chloro-4-fluoro-nitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | napthalene-2-thiol | C1=C(C=CC2=CC=CC=C12)S | C10H8S
product | 2-(2-Chloro-4-nitro-phenylsulfanyl)-napthalene | ClC1=C(C=CC(=C1)[N+](=O)[O-])SC1=CC2=CC=CC=C2C=C1 | C16H10ClNO2S
